US07276518B2
4-Dimethylamino-4-phenylcyclohexanone (10 g) and hydroxylamine hydrochloride (4.8 g) were dissolved in absolute ethanol (120 ml), basic ion exchanger Amberlyst A 21 (30.7 g) was added to the solution, and stirring was carried out overnight at RT. The ion exchanger was filtered off and washed with ethanol (3×50 ml) on the frit. The ethanol was removed in vacuo and the residue was adjusted to pH 11 with 5M NaOH, diluted with water and extracted with ethyl acetate (4×30 ml). The combined extracts were dried with Na2SO4 and concentrated. 11 g of 4-dimethylamino-4-phenyl-cyclohexanone oxime were obtained.

reactant | 4-Dimethylamino-4-phenylcyclohexanone | 10 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | hydroxylamine hydrochloride | 4.8 g | Cl.NO
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 4-dimethylamino-4-phenyl-cyclohexanone oxime | 11 g | CN(C1(CCC(CC1)=NO)C1=CC=CC=C1)C | C14H20N2O
